US06831080B2
Preparation of (±)-1-benzo[1,3]dioxol-5-yl-ethylamine
A suspension of Raney nickel (1 mL) in methanol (5 mL) and ammonium hydroxide (1 mL) was added to a solution of 1-(1,3-benzodioxol-5-yl)acetaldehyde, oxime (Preparation 1, 8.98 g, 50 mmole) in methanol (50 mL). The reaction mixture was hydrogenated (shaken on a Parr hydrogenator under H2 atmosphere at 60 psi) for 24 hours. The reaction mixture was filtered, and the resultant filtrate was concentrated in vacuo to provide the title compound as an oil (3.68 g, 45%).

reactant | 1-(1,3-benzodioxol-5-yl)acetaldehyde | O1COC2=C1C=CC(=C2)C(C)=O | C9H8O3
reactant | ammonium hydroxide | 1 mL | [OH-].[NH4+]
catalyst | Raney nickel | 1 mL | [Ni] | Ni
solvent | methanol | 5 mL | CO | CH4O
solvent | methanol | 50 mL | CO | CH4O
product | (±)-1-benzo[1,3]dioxol-5-yl-ethylamine | 3.68 g, 45% | O1COC2=C1C=CC(=C2)C(C)N | C9H11NO2
